US04738803
5.07 g of triethylamine is added at 0° C. while stirring to a solution of 7.87 g of O.benzylhydroxylamine hydroxide in a mixture of 50 ml of water and 50 if of CHCl3. The organic phase is separated out, washed with 3×50 ml of water, dried and evaporated under a vacuum. 6 g of O.benzylhydroxylamine base are obtained. The latter is added away from air in solution in 20 ml of MeOH to a solution of 2 g of 2-benzyl acrylic acid in 10 ml of MeOH. The mixture is refluxed for 7 days and concentrated under a vacuum. The oil obtained is dissolved in 100 ml of AcOEt and N NaOH is added until a pH 10 is reached. The aqueous phase is decanted and acidified with N HCl until a pH 1-2 is reached. The acid phase is extracted with AcOEt (2×50 ml), dried and evaporated under a vacuum. The oil obtained slowly crystallizes.

reactant | triethylamine | 5.07 g | C(C)N(CC)CC | C6H15N
reactant | benzylhydroxylamine hydroxide | [OH-].C(C1=CC=CC=C1)NO
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 ml | O | H2O
product | benzylhydroxylamine | C(C1=CC=CC=C1)NO | C7H9NO
